US04808595
2-Sulfamoyl-4-[2-(dimethylamino)ethylamino]furo[3,2-c]pyridine dihydrochloride
A mixture of 2-sulfamoyl-4-chloro-furo[3,2-c]pyridine (1.02 g, 4.4 mmol) in 2-(dimethylamino)ethylamine (1.4 ml, 12.8 mmol) was warmed at 90° C. for 8 hours. The cooled mixture was diluted with water and made basic with saturated sodium carbonate. The product was extracted into ethyl acetate/methanol, dried over anhydrous sodium sulfate, and filtered. The solution was evaporated to give crude product. This residue was dissolved in methanol and excess ethanolic HCl was added. After dilution with diethyl ether, the resultant gum was digested in ethanol to give a powder (0.86 g, 55% yield), mp: 275°-278° C. Recrystallization of this salt by dissolution in a minimum amount of warm water and subsequent dilution with ethanol gave pure dihyrochloride salt (0.56 g) mp: 281°-283° C.

reactant | 2-sulfamoyl-4-chloro-furo[3,2-c]pyridine | 4.4 mmol, 1.02 g | S(N)(=O)(=O)C1=CC=2C(=NC=CC2O1)Cl | C7H5ClN2O3S
reactant | 2-(dimethylamino)ethylamine | 12.8 mmol, 1.4 ml | CN(CCN)C | C4H12N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Sulfamoyl-4-[2-(dimethylamino)ethylamino]furo[3,2-c]pyridine dihydrochloride | 0.86 g, 55% yield | Cl.Cl.S(N)(=O)(=O)C1=CC=2C(=NC=CC2O1)NCCN(C)C | InChI=1S/C11H16N4O3S.2ClH/c1-15(2)6-5-14-11-8-7-10(19(12,16)17)18-9(8)3-4-13-11;;/h3-4,7H,5-6H2,1-2H3,(H,13,14)(H2,12,16,17);2*1H
